US07893056B2
Pyrrolidine (248 uL, 3 mmol), N-CBZ-glycine (628 mg, 3 mmol), and HOAt (408 mg, 3 mmol) were dissolved in 10 mL of dichloromethane. NMM (0.66 mL, 6 mmol) was added, followed by EDC (575 mg, 3 mmol). After stirring overnight at room temperature, the reaction mixture was diluted with dichloromethane, washed with water, saturated aqueous NaHCO3 solution, and saturated aqueous NH4Cl solution, then dried (Na2SO4) and evaporated to yield phenylmethyl [2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate as a beige solid (782 mg, 100%). LCMS: (M+H)+: 263.1.

reactant | Pyrrolidine | 3 mmol, 248 uL | N1CCCC1 | C4H9N
reactant | N-CBZ-glycine | 3 mmol, 628 mg | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | HOAt | 3 mmol, 408 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 6 mmol, 0.66 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 3 mmol, 575 mg
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | phenylmethyl [2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate | 782 mg, 100% | O=C(CNC(OCC1=CC=CC=C1)=O)N1CCCC1 | C14H18N2O3
